US03978086
To a flask equipped with a stirrer and Dean-Stark water separator are charged 53g. of benzoin, 51g. of 3,4-methylenedioxyaniline, 2.5g. of p-toluenesulfonic acid and 300 ml. of xylene. The mixture is stirred and refluxed for 10 hours. After cooling to room temperature 1500 ml of chloroform are added and the organic layer is washed two times with 150 ml. of 10%, sulfuric acid. The organic layer is treated with charcoal, filtered and concentrated in vacuo to ca. 500 ml. On standing there is obtained 2,3-diphenyl- 5,6-methylenedioxyindole, m.p. 187°-188°C.

reactant | water | O | H2O
reactant | benzoin | C1(=CC=CC=C1)C(=O)C(O)C1=CC=CC=C1 | C14H12O2
reactant | 3,4-methylenedioxyaniline | C1OC=2C=C(N)C=CC2O1 | C7H7NO2
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | chloroform | 1500 ml | C(Cl)(Cl)Cl | CHCl3
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 2,3-diphenyl- 5,6-methylenedioxyindole | C1(=CC=CC=C1)C=1NC2=CC3=C(C=C2C1C1=CC=CC=C1)OCO3 | C21H15NO2
